US08030489B2
To a mixture of methyl 4-(3-methoxy-3-oxopropyl)benzoate (10 g) and sulfuric acid (50 ml) was added dropwise fumed nitric acid (5.7 ml) under ice-cooling, followed by stirring at room temperature for 4 hours. The reaction mixture was poured into ice-water and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To the residue were added methanol and concentrated sulfuric acid, followed by stirring at 105° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, and a saturated aqueous sodium hydrogen carbonate solution was added to the residue under ice-cooling. The resulting solid was collected by filtration and washed with a saturated aqueous sodium hydrogen carbonate solution and water to obtain methyl 4-(3-methoxy-3-oxopropyl)-3-nitrobenzoate (12 g).

reactant | methyl 4-(3-methoxy-3-oxopropyl)benzoate | 10 g | COC(CCC1=CC=C(C(=O)OC)C=C1)=O | C12H14O4
reactant | nitric acid | 5.7 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 4-(3-methoxy-3-oxopropyl)-3-nitrobenzoate | 12 g | COC(CCC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])=O | C12H13NO6
